US06323373B1
Synthesis of 2,5-Dimethyl-4′-hexyloxybiphenyl
Bromo-p-xylene (8.3 g, 45 mmol) (cf. A1 a)), K2CO3 (12.4 g, 90 mmol), 70 ml of toluene and 70 ml of H2O were placed in a reaction vessel and argon was passed in for 30 minutes. 4-hexyloxyphenylboronic acid (10 g, 45 mmol) and Pd(PPh3)4 (0.65 g, 0.56 mmol) were subsequently added under protective gas. The yellow-green, turbid mixture was stirred vigorously under a blanket of protective gas for about 20 hours at an internal temperature of 85° C. After phase separation, the organic phase was shaken with dilute HCl/H2O (until neutral). The aqueous phase was shaken with toluene and the organic phases were combined. After filtering off any palladium residues, the solution was evaporated. The crude product was purified by distillation under reduced pressure: the product was obtained as a yellow oil (boiling point: 117°-125° C./0.08 mbar): 10.3 g (81%). Purity >95% (1H-NMR).

reactant | Bromo-p-xylene | 45 mmol, 8.3 g | BrC1=C(C=CC(=C1)C)C | C8H9Br
reactant | K2CO3 | 90 mmol, 12.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-hexyloxyphenylboronic acid | 45 mmol, 10 g | C(CCCCC)OC1=CC=C(C=C1)B(O)O | C12H19BO3
catalyst | Pd(PPh3)4 | 0.56 mmol, 0.65 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 70 ml | O | H2O
product | 2,5-Dimethyl-4′-hexyloxybiphenyl | CC1=C(C=C(C=C1)C)C1=CC=C(C=C1)OCCCCCC | C20H26O
